US08124766B2
4-(4-{4-[(4-Ethoxy-1-ethyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid
With a method similar to that used for the preparation of 4-(4-{5-[(4-chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid, 4-(4-{4-[(4-ethoxy-1-ethyl-1,1-indole-2-carbonyl)-amino]-phenyl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid was prepared from 4-ethoxy-1-ethyl-1H-indole-2-carboxylic acid (4-piperazin-4-yl-phenyl)-amide. LCMS for C29H36N4O5 calcd. (m/e) 520, observed 521 (M+H).

reactant | 4-(4-{5-[(4-chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid | ClC1=CC=CC=2SC(=CC21)C(=O)NC=2C=CC(=NC2)N2CCN(CC2)C(CC(C(=O)O)(C)C)=O | C24H25ClN4O4S
reactant | 4-ethoxy-1-ethyl-1H-indole-2-carboxylic acid (4-piperazin-4-yl-phenyl)-amide | N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N(C2=CC=CC(=C2C1)OCC)CC | C23H28N4O2
product | 4-(4-{4-[(4-Ethoxy-1-ethyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperazin-1-yl)-2,2-dimethyl-4-oxo-butyric acid | C(C)OC1=C2C=C(N(C2=CC=C1)CC)C(=O)NC1=CC=C(C=C1)N1CCN(CC1)C(CC(C(=O)O)(C)C)=O | C29H36N4O5
